US08492414B2
5-(Bromomethyl)-3-(4-chloro-2-methoxyphenyl)-1,2,4-thiadiazole (VII)
To a solution of (3-(4-chloro-2-methoxyphenyl)-1,2,4-thiadiazol-5-yl)methanol (0.08 g, 0.31 mmol) in toluene (4 ml) was added PBr3 (49 μl, 0.47 mmol) and the resulting reaction mixture was heated at 60° C. for 2 h. After the completion of the reaction (TLC monitoring), the reaction mixture was cooled to 0° C., added water (50 ml) and extracted with ethyl acetate (3×50 ml). The combined organics was washed with saturated NaHCO3 solution, dried over Na2SO4, filtered and concentrated under vacuum. The crude residue was purified over silica gel (100-200 M, 5% EtOAc-Hexane) to get the desired product (0.063 g, 64%). MS: 319 (M+H)+.

reactant | (3-(4-chloro-2-methoxyphenyl)-1,2,4-thiadiazol-5-yl)methanol | 0.31 mmol, 0.08 g | ClC1=CC(=C(C=C1)C1=NSC(=N1)CO)OC | C10H9ClN2O2S
reactant | PBr3 | 0.47 mmol, 49 μl | P(Br)(Br)Br | Br3P
reactant | water | 50 ml | O | H2O
solvent | toluene | 4 ml | C1(=CC=CC=C1)C | C7H8
product | 5-(Bromomethyl)-3-(4-chloro-2-methoxyphenyl)-1,2,4-thiadiazole | 0.063 g, 64% | BrCC1=NC(=NS1)C1=C(C=C(C=C1)Cl)OC | C10H8BrClN2OS
